US05106976
2-Mercaptoimidazo[4,5-b]pyridine and 2-(N-cyclopentylamino)benzyl chloride hydrochloride were reacted in an aqueous ethanol solution to obtain 2-[2-(N-cyclopentylamino)benzylthio]-imidazo[4,5-b]pyridine in the same manner as in Example 9-(2). The obtained 2-[2-(N-cyclopentylamino)benzylthio]imidazo[4,5-b]pyridine was oxidized by m-chloroperbenzoic acid in chloroform in the same manner as in Example 9-(3) to give 2-[2-(N-cyclopentylamino)benzylsulfinyl]imidazo[4,5-b]pyridine as a pale yellow crystalline product. m.p.: 134° C. (decompn.)

reactant | 2-Mercaptoimidazo[4,5-b]pyridine | SC=1NC=2C(=NC=CC2)N1 | C6H5N3S
reactant | 2-(N-cyclopentylamino)benzyl chloride hydrochloride | Cl.C1(CCCC1)NC1=C(CCl)C=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(N-cyclopentylamino)benzylthio]-imidazo[4,5-b]pyridine | C1(CCCC1)NC1=C(CSC=2NC=3C(=NC=CC3)N2)C=CC=C1 | C18H20N4S
